US09212187B2
Synthesis of 3-(pyridin-3-yl)-1H-quinolin-4-one
2N Hydrochloric acid(10 ml) was added to a DMF solution(5 ml) of 4-chloro-(3-pyridin-3-yl)quinoline(0.51 g), and the mixture was stirred at 80° C. for 1 hour. After the reaction mixture was cooled to room temperature, 2N sodium hydroxide aqueous solution(10 ml) was added dropwise under ice cooling. The mixture was stirred. The precipitated insoluble matter was separated, washed with water and ether, and dried to give the title compound(0.35 g) as a pale whitish purple powder.

reactant | Hydrochloric acid | 2N, 10 ml | Cl | ClH
reactant | 4-chloro-(3-pyridin-3-yl)quinoline | 0.51 g | ClC1=C(C=NC2=CC=CC=C12)C=1C=NC=CC1 | C14H9ClN2
reactant | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(pyridin-3-yl)-1H-quinolin-4-one | 0.35 g | N1=CC(=CC=C1)C1=CNC2=CC=CC=C2C1=O | C14H10N2O
